US06255306B1
1-Methyl-4-(4-methylpiperazin-1yl)indole-2-carboxylic acid
A solution of 1-(2-(ethoxycarbonyl)-1-methylindol-4-yl)-4-methylpiperazine (0.117 g, 0.39 mmol), lithium hydroxide hydrate (0.035 g, 0.83 mmol, 2 equivalents) in tetrahydrofuran (2 mL) and water (0.5 mL) was heated at reflux under nitrogen for 16 hours. The resulting reaction solution was evaporated under reduced pressure, and the residue was directly chromatographed using silica gel (approximately 10 g) and elution with methylene chloride/methanol/ammonium hydroxide [5:1:0.1] afforded the title compound (0.097 g, 0.34 mmol, 91%) as a yellow solid: 1H NMR (CD3OD) δ7.20-7.12 (m, 2H), 7.08 (s, 1H), 6.58 (dd, J=1.1 and 7.1 Hz, 1H), 4.90 (s, exchangeable H), 4.03 (s, 3H), 3.38 (br t, 4H), 3.34 (s, 3H), 3.28 (br t, 4H); LRMS (m/z, relative intensity) 274 (18), 273 (M+, 100), 258 (11), 229 (11), 203 (39), 202 (46), 71 (32), 70 (23); HRMS calculated for C15H19N3O2 273.1479, found 273.1479.

reactant | 1-(2-(ethoxycarbonyl)-1-methylindol-4-yl)-4-methylpiperazine | 0.39 mmol, 0.117 g | C(C)OC(=O)C=1N(C2=CC=CC(=C2C1)N1CCN(CC1)C)C | C17H23N3O2
reactant | lithium hydroxide hydrate | 0.83 mmol, 0.035 g, 2 equivalents | O.[OH-].[Li+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 1-Methyl-4-(4-methylpiperazin-1yl)indole-2-carboxylic acid | 0.34 mmol, 0.097 g, 91% | CN1C(=CC2=C(C=CC=C12)N1CCN(CC1)C)C(=O)O | C15H19N3O2
